US06495604B1
Sodium peroxyborate tetrahydrate (38.2 g) was admixed with acetic acid (270 ml) and heated to 50 to 55° C. and then a solution of ethyl 5-t-butyl-2-mercapto-1-cyclohexene-1-carboxylate (20.1 g) synthesized in Reference Example 15 in acetic acid (31 ml) was added dropwise over 2 hours. The mixture was stirred at 50 to 55° C. for 3 hours and then at 80 to 85° C. for 7.5 hours and concentrated under reduced pressure. The residue was combined with acetonitrile (445ml) and stirred at room temperature for 3.5 hours and the resultant insolubles were filtered off. The insolubles were washed with acetonitrile (110 ml) and the filtrate and the washing were combined and concentrated under reduced pressure, and the resultant residue was dissolved in acetonitrile (320 ml) and stirred at room temperature for 15 hours. The resultant insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The residue was combined with diisopropyl ether (250 ml) and the pellet which precipitated was isolated by a filtration and concentrated under reduced pressure to obtain ethyl 5-t-butyl-2-sulfo-1-cyclohexene-1-carboxylate as yellow oil (17.6 g) containing inorganic substances. This (16.4 g) was treated dropwise with thionyl chloride (49.2 ml) at 0° C. over 0.5 hours and then stirred at 80 to 90° C. for 7 hours. The solution was evaporated under reduced pressure to dryness and the residue was partitioned between ethyl acetate (200 ml) and dilute brine (240 ml) and the aqueous layer was extracted with ethyl acetate (100 ml). The combined ethyl acetate layers were washed with saturated brine (120 ml) and then dried over anhydrous sodium sulfate. The solvent was evaporated off to obtain a residue, which was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/10), and a desired fraction was concentrated under reduced pressure. The residue was crystallized from hexane to yield ethyl 5-t-butyl-2-chlorosulfonyl-1-cyclohexene-1-carboxylate (7.4 g) as a white crystals.

reactant | Sodium peroxyborate tetrahydrate | 38.2 g | O.O.O.O.B([O-])([O-])O[O-].[Na+].[Na+].[Na+]
reactant | ethyl 5-t-butyl-2-mercapto-1-cyclohexene-1-carboxylate | 20.1 g | C(C)(C)(C)C1CCC(=C(C1)C(=O)OCC)S | C13H22O2S
solvent | acetic acid | 31 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 270 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-t-butyl-2-sulfo-1-cyclohexene-1-carboxylate | 17.6 g | C(C)(C)(C)C1CCC(=C(C1)C(=O)OCC)S(=O)(=O)O | C13H22O5S
